US06403620B1
1-[(4-methoxy)phenyl]-3,5-dimethylpyrazole
To a solution of 4-methoxyphenylhydrazine hydrochloride (118.7 g, 0.68 mol) in 300 mL of glacial acetic acid was added 2,4-pentanedione (68.0 g, 0.68 mol). The resulting solution was stirred at 100° C. for 18 h and then was cooled and concentrated in vacuo. The residue was dissolved in ethyl acetate, filtered through a pad of silica gel and concentrated to afford 131 g (95%) of the title compound, which was used without purification. LRMS (NH4−CI): 203.3 (M+H)+.

reactant | 4-methoxyphenylhydrazine hydrochloride | 0.68 mol, 118.7 g | Cl.COC1=CC=C(C=C1)NN
reactant | 2,4-pentanedione | 0.68 mol, 68.0 g | CC(CC(C)=O)=O | C5H8O2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 1-[(4-methoxy)phenyl]-3,5-dimethylpyrazole | 131 g, 95% | COC1=CC=C(C=C1)N1N=C(C=C1C)C | C12H14N2O
